US07160901B2
a. N-(2-dimethylamino-ethyl)-phenylsulphonamide
2.8 g (30 mmol) of N,N-dimethylethylenediamine are placed in 100 ml of dichloromethane and 8.3 ml (60 mmol) of triethylamine. While cooling with ice a solution of 3.9 ml (30 mmol) of benzenesulphonic acid chloride in 100 ml of dichloromethane is added dropwise and the mixture is stirred overnight at ambient temperature. Water is added and the mixture is extracted with dichloromethane. The organic phase is dried and evaporated down.

reactant | N,N-dimethylethylenediamine | 30 mmol, 2.8 g | CN(CCN)C | C4H12N2
reactant | triethylamine | 60 mmol, 8.3 ml | C(C)N(CC)CC | C6H15N
reactant | benzenesulphonic acid chloride | 30 mmol, 3.9 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | Water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(2-dimethylamino-ethyl)-phenylsulphonamide | CN(CCNS(=O)(=O)C1=CC=CC=C1)C | C10H16N2O2S
